US06239265B1
The chloromercury derivative of 2-acetamido-6-chloropurine is condensed with 2,3,5-tri-O-acetyl-3-D-ribofuranosylpurine utilizing the method of Lee et. al. (1971), J. Med. Chem., 14:819. The condensation product was treated with ammonia to yield 2-amino-6-chloro-9-(β-D-xylofuranosyl)purine. Further treatment with sodium hydroxyethylmercaptide gives the title compound.

reactant | 2-acetamido-6-chloropurine | C(C)(=O)NC1=NC(=C2NC=NC2=N1)Cl | C7H6ClN5O
reactant | 2,3,5-tri-O-acetyl-3-D-ribofuranosylpurine | C(C)(=O)O[C@H]1C(O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C=NC=C2N=CN=C12 | C16H18N4O7
reactant | ammonia | N | H3N
catalyst | chloromercury | Cl[Hg]
product | 2-amino-6-chloro-9-(β-D-xylofuranosyl)purine | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@H](O)[C@@H](O)[C@H](O1)CO)Cl | C10H12ClN5O4
